US07989457B2
To a solution of 4-(3-bromo-4-methoxy-benzoyl)-benzoic acid methyl ester (4.42 g, 12.66 mmol) in THF (20 mL) at 0° C. is added isobutylmagnesium bromide (2M, 7.6 mL). After stirring at room temperature for 2 hours, it is quenched with saturated ammonium chloride, extracted with EtOAc. The organic is concentrated to give 4-[1-(3-bromo-4-methoxy-phenyl)-1-hydroxy-heptyl]-benzoic acid methyl ester (0.572 g, 10%)

reactant | 4-(3-bromo-4-methoxy-benzoyl)-benzoic acid methyl ester | 12.66 mmol, 4.42 g | COC(C1=CC=C(C=C1)C(C1=CC(=C(C=C1)OC)Br)=O)=O | C16H13BrO4
reactant | isobutylmagnesium bromide | 2M, 7.6 mL | C(C(C)C)[Mg]Br
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[1-(3-bromo-4-methoxy-phenyl)-1-hydroxy-heptyl]-benzoic acid methyl ester | 0.572 g, 10% | COC(C1=CC=C(C=C1)C(CCCCCC)(O)C1=CC(=C(C=C1)OC)Br)=O | C22H27BrO4
